US05455274
A stirred solution of 4-hydroxybenzoic acid (5 g, 36.2 mmol) in 50 mL of dichloromethane is treated at 0° C. with oxalyl chloride (6.3 mL, 72.4 mmol) and N,N-dimethylformamide (5.6 mL, 72.4 mmol). This solution is stirred at room temperature for 2 hours and treated with diisopropylamine (40 mL, 286 mmol) at 0° C. After stirring at room temperature for overnight, the reaction is partitioned between ethyl acetate and 1N hydrochloride solution. The organic phase is washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 4-hydroxy-N,N-bis(1-methylethyl)benzamide.

reactant | 4-hydroxybenzoic acid | 36.2 mmol, 5 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | oxalyl chloride | 72.4 mmol, 6.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 72.4 mmol, 5.6 mL | CN(C=O)C | C3H7NO
reactant | diisopropylamine | 286 mmol, 40 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-hydroxy-N,N-bis(1-methylethyl)benzamide | OC1=CC=C(C(=O)N(C(C)C)C(C)C)C=C1 | C13H19NO2
